US08981101B2
Preparation of tert-butyl 3-iodo-5-(1-methyl-1H-pyrazol-4-yl)pyrrolo-[2,3-b]pyridine-1-carboxylate
1.2 7.5 ml (54.1 mmol) of triethylamine and 220 mg (1.80 mmol) of 4-(dimethylamino)pyridine are added to a suspension of 5.85 g (18.0 mmol) of 3-iodo-5-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine in 100 ml of dichloromethane. A solution of 4.6 ml (21.5 mmol) of di-tert-butyl dicarbonate in 50 ml of dichloromethane is then slowly added dropwise. After the reaction mixture has been stirred at room temperature for 4 hours, it is partitioned between water and dichloromethane. The organic phase is dried over sodium sulfate and evaporated in vacuo: tert-butyl 3-iodo-5-(1-methyl-1H-pyrazol-4-Apyrrolo[2,3-b]pyridine-1-carboxylate as colourless crystals; HPLC/MS: 2.45 min, [M+H] 425.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 3-iodo-5-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine | 18.0 mmol, 5.85 g | IC1=CNC2=NC=C(C=C21)C=2C=NN(C2)C | C11H9IN4
reactant | di-tert-butyl dicarbonate | 21.5 mmol, 4.6 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-(dimethylamino)pyridine | 1.80 mmol, 220 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | tert-butyl 3-iodo-5-(1-methyl-1H-pyrazol-4-yl)pyrrolo-[2,3-b]pyridine-1-carboxylate | IC1=CN(C2=NC=C(C=C21)C=2C=NN(C2)C)C(=O)OC(C)(C)C | C16H17IN4O2
